US07994196B2
4-[4-Chloro-3-(trifluoromethyl)phenyl]-4-hydroxy-1-piperidinecarboxylic acid ethyl ester (2.0 g) was dissolved in dimethylformamide and the mixture was cooled to 0° C. Sodium hydride (250 mg) was added thereto, and the mixture was stirred for 30 min. Then, methyl iodide (0.4 ml) was added, and the mixture was further stirred for 30 min and warmed to room temperature. Water was added thereto, and the mixture was extracted three times with methylene chloride. The organic layer dried over magnesium sulfate and the solvent was evaporated under reduced pressure. Ethanol (20 ml) and a 6N aqueous sodium hydroxide solution (15 ml) were added to the obtained residue, and the mixture was heated under reflux for hr. The reaction mixture was allowed to cool to room temperature, neutralized with 12N aqueous hydrochloric acid, and extracted three times with chloroform. The organic layer was dried and the solvent was evaporated under reduced pressure to give 4-[4-chloro-3-(trifluoromethyl)phenyl]-4-methoxypiperidine (1.56 g, yield 93%).

reactant | 4-[4-Chloro-3-(trifluoromethyl)phenyl]-4-hydroxy-1-piperidinecarboxylic acid ethyl ester | 2.0 g | C(C)OC(=O)N1CCC(CC1)(O)C1=CC(=C(C=C1)Cl)C(F)(F)F | C15H17ClF3NO3
reactant | Sodium hydride | 250 mg | [H-].[Na+]
reactant | methyl iodide | 0.4 ml | CI | CH3I
reactant | Water | O | H2O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 4-[4-chloro-3-(trifluoromethyl)phenyl]-4-methoxypiperidine | 1.56 g, yield 93% | ClC1=C(C=C(C=C1)C1(CCNCC1)OC)C(F)(F)F | C13H15ClF3NO
